US07084139B2
6-Chloro-N-(cyanomethyl)-N-{(3S)-1-[(1S)-1-methyl-2-oxo-2-piperidin-1-ylethyl]-2-oxopyrrolidin-3-yl}naphthalene-2-sulfonamide
A solution of 6-chloro-N-{(3S)-1-[(1S)-1-methyl-2-oxo-2-piperidin-1-ylethyl]-2-oxopyrrolidin-3-yl}naphthalene-2-sulfonamide (0.015 g) in THF (2 ml) was cooled to −78° C. under nitrogen, and treated with lithium bis(trimethylsilyl) amide (1.0M solution in THF; 0.042 ml), followed by bromoacetonitrile (0.019 g). The resultant solution was allowed to reach room temperature and stirred for a further 16 h. The mixture was then cooled to −78° C. and further lithium bis(trimethylsilyl) amide (0.042 ml) added. After reaching room temperature, the reaction mixture was stirred for a further 18 h and then quenched by the addition of methanol (1 ml). The resultant solution was concentrated under reduced pressure and the residue partitioned between water and DCM. The organic layer was separated, dried (over magnesium sulphate) and concentrated under reduced pressure. The residue was purified by mass directed preparative h.p.l.c to give the title compound (0.007 g) as a colourless gum.

reactant | 6-chloro-N-{(3S)-1-[(1S)-1-methyl-2-oxo-2-piperidin-1-ylethyl]-2-oxopyrrolidin-3-yl}naphthalene-2-sulfonamide | 0.015 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(N1CCCCC1)=O)C)=O | C22H26ClN3O4S
reactant | lithium bis(trimethylsilyl) amide | 1.0M, 0.042 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | bromoacetonitrile | 0.019 g | BrCC#N | C2H2BrN
reactant | lithium bis(trimethylsilyl) amide | 0.042 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 6-Chloro-N-(cyanomethyl)-N-{(3S)-1-[(1S)-1-methyl-2-oxo-2-piperidin-1-ylethyl]-2-oxopyrrolidin-3-yl}naphthalene-2-sulfonamide | 0.007 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N([C@@H]1C(N(CC1)[C@H](C(N1CCCCC1)=O)C)=O)CC#N | C24H27ClN4O4S
